US04283544
226 g (2 mols) of 2,4,4-trimethyloxazoline were dropped at room temperature to 298 g (2 mols) 3-methyl-2-butenyl bromide in 400 ml absolute methylenchloride and were stirred for 12 hours at 20° C. After cooling to 0° C. 400 ml (2 mols) of a 30% solution of sodium methylate were added and the mixture was stirred for a further hour at room temperature. The solution was filtered and after removing off the solvent the residue was distilled. 368 g (1.72 mols, 86%) of 2-methoxy-3-(3-methyl-2-butenyl)-2,4,4-trimethyloxazolidine of boiling point 70°-76° C./0.05 mm Hg were obtained. NMR (CDCL3): α1.1 (s, 3H); 1.2 (s, 3H); 1.4 (s, 3H); 1.6-1.7 (bs, 6H); 3.2 (s, 3H); 3.25 (d, J=6.5 Hz, 2H); 3.65 (s, 2H); 5.25 (t, J=6.5 Hz, 1H).

reactant | 2,4,4-trimethyloxazoline | 2 mols, 226 g | CC=1OCC(N1)(C)C | C6H11NO
reactant | 3-methyl-2-butenyl bromide | 2 mols | CC(=CCBr)C | C5H9Br
reactant | sodium methylate | C[O-].[Na+]
solvent | methylenchloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 2-methoxy-3-(3-methyl-2-butenyl)-2,4,4-trimethyloxazolidine | 1.72 mols, 368 g, 86% | COC1(OCC(N1CC=C(C)C)(C)C)C | C12H23NO2
